US20010056109A1
b) 2-Benzylindan-1-one
2-Benzylideneindan-1-one (6.0 g) was hydrogenated in 100 ml of ethanol using 0.1 g of 10% palladium on carbon as catalyst at room temperature. The catalyst was removed by filtration, and the filtrate was evaporated to dryness.

reactant | 2-Benzylideneindan-1-one | 6.0 g | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1)=O | C16H12O
solvent | ethanol | 100 ml, 0.1 g | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Benzylindan-1-one | C(C1=CC=CC=C1)C1C(C2=CC=CC=C2C1)=O | C16H14O
